.title kicad schematic

.include DS2004.sub
* u4 net-_r4-pad2_ gnd plot_i2
* u3 net-_r3-pad2_ gnd plot_i2
* u2 net-_r2-pad2_ gnd plot_i2
* u1 net-_r1-pad2_ gnd plot_i2
r2 g net-_r2-pad2_ 1k
x1 net-_x1-pad1_ net-_x1-pad2_ net-_x1-pad3_ net-_x1-pad4_ net-_x1-pad5_ net-_x1-pad6_ net-_x1-pad7_ gnd com g f e d c b a DS2004
r1 com net-_r1-pad2_ 1k
r3 f net-_r3-pad2_ 1k
r4 e net-_r4-pad2_ 1k
r5 d net-_r5-pad2_ 1k
r6 c net-_r6-pad2_ 1k
* u5 net-_r5-pad2_ gnd plot_i2
* u6 net-_r6-pad2_ gnd plot_i2
* u8 net-_r8-pad2_ gnd plot_i2
* u7 net-_r7-pad2_ gnd plot_i2
r7 b net-_r7-pad2_ 1k
r8 a net-_r8-pad2_ 1k
v2 net-_x1-pad2_ gnd  dc 2v
v1 net-_x1-pad1_ gnd  dc 1v
v3 net-_x1-pad3_ gnd  dc 3v
v4 net-_x1-pad4_ gnd  dc 4v
v5 net-_x1-pad5_ gnd  dc 5v
v6 net-_x1-pad6_ gnd  dc 6v
v7 net-_x1-pad7_ gnd  dc 7v
v_u4 net-_r4-pad2_ gnd 0
v_u3 net-_r3-pad2_ gnd 0
v_u2 net-_r2-pad2_ gnd 0
v_u1 net-_r1-pad2_ gnd 0
v_u5 net-_r5-pad2_ gnd 0
v_u6 net-_r6-pad2_ gnd 0
v_u8 net-_r8-pad2_ gnd 0
v_u7 net-_r7-pad2_ gnd 0
.tran 1e-03 100e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot i(v_u4)
plot i(v_u3)
plot i(v_u2)
plot i(v_u1)
plot i(v_u5)
plot i(v_u6)
plot i(v_u8)
plot i(v_u7)
.endc
.end
